US04497805
Methyl 3α-acetoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride solution
Methyl 3α-acetoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (90 mg) was dissolved in 0.0987M HCl solution (1.91 ml) as far as possible. The mixture was made up to 9 g with water and filtered. The residue was collected, dried and weighed (9 mg). This gave a 0.9% solution with respect to free base, pH 2.45.

reactant | Methyl 3α-acetoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 90 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1O)C)NCCC(C)C)C(=O)OC | C28H47NO5
reactant | water | O | H2O
reactant | HCl | 0.0987M, 1.91 ml | Cl | ClH
product | Methyl 3α-acetoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride | 0.9% | Cl.C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1O)C)NCCC(C)C)C(=O)OC | InChI=1S/C28H47NO5.ClH/c1-16(2)11-12-29-22-14-28(5)20(9-10-21(28)26(32)33-6)19-8-7-18-13-24(34-17(3)30)23(31)15-27(18,4)25(19)22;/h16,18-25,29,31H,7-15H2,1-6H3;1H/t18-,19-,20-,21+,22+,23-,24-,25+,27-,28-;/m0./s1
